US06525049B2
N-(4-Chlorobenzyl)-2-(methoxymethyl)-8-(4-morpholinylmethyl)-6-oxo-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxamide
To a flame-dried flask under a nitrogen atmosphere is added N-(4-chlorobenzyl)-4-hydroxy-8-iodo-6-(4-morpholinylmethyl)-3-quinolinecarboxamide (269 mg) of Preparation 26, PdCl2(PPh3)2 (18 mg), and CuI (10 mg). The flask is back-filled with nitrogen gas and charged with dichloromethane (10 mL), Et3N (0.14 mL), and methyl propargyl ether (0.046 mL). The reaction is stirred at room temperature for 4 days. The reaction mixture is diluted with dichloromethane and partitioned against dilute aqueous sodium carbonate. The aqueous phase is extracted with two portions of dichloromethane. The combined organic layers are washed with brine, dried over sodium sulfate and concentrated under reduced pressure. The residue is flash column chromatographed on silica gel eluting with 1% to 4% methanol in dichloromethane. The product containing fractions are combined and concentrated under reduced pressure to give a yellow solid which is crystallized from toluene to afford 0.13 g of the title compound as tan needles.

reactant | N-(4-chlorobenzyl)-4-hydroxy-8-iodo-6-(4-morpholinylmethyl)-3-quinolinecarboxamide | 269 mg | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)CN2CCOCC2)I)C=C1 | C22H21ClIN3O3
reactant | Et3N | 0.14 mL | CCN(CC)CC | C6H15N
reactant | methyl propargyl ether | 0.046 mL | C(C#C)OC | C4H6O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | PdCl2(PPh3)2 | 18 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 10 mg | [Cu]I
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-(4-Chlorobenzyl)-2-(methoxymethyl)-8-(4-morpholinylmethyl)-6-oxo-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxamide | 0.13 g | ClC1=CC=C(CNC(=O)C2=CN3C4=C(C=C(C=C4C2=O)CN2CCOCC2)C=C3COC)C=C1 | C26H26ClN3O4
